US08183271B2
{5-Fluoro-2-[2-(4-methoxyphenyl)ethyl]phenyl}methanol
A mixture of 6.8 g (26.33 mmol) of E-{5-fluoro-2-[2-(4-methoxyphenyl)vinyl]phenyl}methanol and 0.5 g of 10% palladium on carbon in 50 ml of methanol and 250 ml of ethanol is hydrogenated under atmospheric pressure at room temperature for 1 hour. After reaction has stopped, the mixture is filtered through kieselguhr and the filtrate is then concentrated to dryness. The resulting residue is purified by flash chromatography on silica gel (mobile phase: cyclohexane/ethyl acetate 10:1→4:1→1:1). 5.95 g (87% of theory) of a colorless solid are obtained.

reactant | E-{5-fluoro-2-[2-(4-methoxyphenyl)vinyl]phenyl}methanol | 26.33 mmol, 6.8 g | FC=1C=CC(=C(C1)CO)\C=C\C1=CC=C(C=C1)OC | C16H15FO2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
solvent | methanol | 50 ml | CO | CH4O
solvent | ethanol | 250 ml | C(C)O | C2H6O
product | {5-Fluoro-2-[2-(4-methoxyphenyl)ethyl]phenyl}methanol | FC=1C=CC(=C(C1)CO)CCC1=CC=C(C=C1)OC | C16H17FO2
